US07351709B2
A solution of (3S)-3-ethyl-7-fluoro-4-[(4-methoxyphenyl)sulfonyl]-1-methyl-3,4-dihydroquinoxalin-2(1H)-one (0.27 g, 0.7 mmol)) and tetrabutylamonium iodide (0.77 g, 2.09 mmol) in methylene chloride (20 mL) was cooled to −78° C. and treated with a 1M solution of boron trichloride in methylene chloride (3.5 mL, 3.5 mmol) via syringe. The cooling bath was removed and the solution was stirred at 25° C. for 3 hours. The reaction was quenched with a saturated aqueous solution of ammonium chloride. The organic phase was separated, dried over magnesium sulfate and concentrated in vacuo. The crude oil was purified via flash column chromatography (SiO2, 40% ethyl acetate:hexane) to afford 0.2 g (78%) of (3S)-3-ethyl-7-fluoro-4-[(4-hydroxyphenyl)sulfonyl]-1-methyl-3,4-dihydroquinoxalin-2(1H)-one as white solid. MS (ESI) m/z 365 ([M+H]+); MS (ESI) m/z 363 ([M−H]−); Anal. Calcd for C17H17FN2O4S: C, 56.03; H, 4.70; N, 7.69. Found: C, 56.12; H, 4.03; N, 7.45.

reactant | (3S)-3-ethyl-7-fluoro-4-[(4-methoxyphenyl)sulfonyl]-1-methyl-3,4-dihydroquinoxalin-2(1H)-one | 0.7 mmol, 0.27 g | C(C)[C@H]1C(N(C2=CC(=CC=C2N1S(=O)(=O)C1=CC=C(C=C1)OC)F)C)=O | C18H19FN2O4S
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
catalyst | tetrabutylamonium iodide | 2.09 mmol, 0.77 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3.5 mmol, 3.5 mL | C(Cl)Cl | CH2Cl2
product | (3S)-3-ethyl-7-fluoro-4-[(4-hydroxyphenyl)sulfonyl]-1-methyl-3,4-dihydroquinoxalin-2(1H)-one | 0.2 g, 78% | C(C)[C@H]1C(N(C2=CC(=CC=C2N1S(=O)(=O)C1=CC=C(C=C1)O)F)C)=O | C17H17FN2O4S
